### PR TITLE
feat(ErdosProblems): 32

### LINKED ISSUE #206: Erdős Problem 32: additive complements to the primes
### What is the conjecture
    
https://www.erdosproblems.com/32

  Is there a set $A\subset\mathbb{N}$ such that 
$$\lvert A\cap\{1,\ldots,N\}\rvert = o((\log N)^2)$$
and such that every large integer can be written as $p+a$ for some prime $p$ and $a\in A$? Can the bound $O(\log N)$ be achieved? Must such an $A$ satisfy 
$$\liminf \frac{\lvert A\cap\{1,\ldots,N\}\rvert}{\log N}> 1?$$

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by rwst**
Resolves #206.

Note: I'm using Claude + Opus for supervised formalization tasks. Claude has no permission to use git on my machine.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/32.lean [hunk 1]
```diff
@@ -0,0 +1,102 @@
...
+
+namespace Erdos32
+
+open scoped Nat
+open Filter Set Asymptotics
+
+/-- A set $A \subseteq \mathbb{N}$ is an _additive complement to the primes_ if every sufficiently
+large natural number can be written as $p + a$ for some prime $p$ and $a \in A$. -/
+def IsAdditiveComplementToPrimes (A : Set ℕ) : Prop :=
+  ∃ N₀, ∀ n ≥ N₀, ∃ p ∈ {p : ℕ | p.Prime}, ∃ a ∈ A, n = p + a
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/32.lean]:
```suggestion
  ∀ᶠ n in atTop, ∃ p ∈ {p : ℕ | p.Prime}, ∃ a ∈ A, n = p + a
```

File: FormalConjectures/ErdosProblems/32.lean [hunk 2]
```diff
@@ -0,0 +1,102 @@
...
+
+/--
+Erdős proved that there exists an additive complement $A$ to the primes with
+$|A \cap \{1, \ldots, N\}| = O((\log N)^2)$.
+
+**References**:
+* [Erd54] Erdős, Paul, Some results on additive number theory. Proc. Amer. Math. Soc. (1954),
+ 847-853.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/32.lean]: potentially move the three references together to the top and only use 
`Erdős proved in [Erd54] that there exists an additive complement $A$ to the primes with...`

File: FormalConjectures/ErdosProblems/32.lean [hunk 3]
```diff
@@ -0,0 +1,102 @@
...
+  sorry
+
+/--
+Must every additive complement $A$ to the primes satisfy
+$\liminf_{N \to \infty} \frac{|A \cap \{1, \ldots, N\}|}{\log N} > 1$?
+-/
+@[category research open, AMS 11]
+theorem erdos_32.variants.liminf_gt_one : answer(sorry) ↔ ∀ A : Set ℕ,
+    IsAdditiveComplementToPrimes A →
+    1 < liminf (fun N => ((Finset.Icc 1 N).filter (· ∈ A)).card / Real.log N) atTop := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/32.lean]: AlphaProof found the following disproof:

```lean
theorem erdos_32.variants.liminf_gt_one : ¬ ∀ A : Set ℕ,
    IsAdditiveComplementToPrimes A →
    1 < liminf (fun N => ((Finset.Icc 1 N).filter (· ∈ A)).card / Real.log N) atTop := by
  push_neg
  field_simp only [IsAdditiveComplementToPrimes,Filter.liminf_eq]
  use⊤,Filter.eventually_atTop.2 ⟨2,fun a s=>⟨2,by decide, a-2,trivial,by valid⟩⟩,(Real.sSup_univ.trans_le (by bound)).trans_eq' ((congr_arg _) ((top_unique) ?_))
  use fun and x =>((Real.isLittleO_log_id_atTop.natCast_atTop.const_mul_left and).tendsto_div_nhds_zero.eventually_le_const one_pos).mp ((Filter.eventually_gt_atTop 1).mono ? _)
  field_simp +contextual [Real.log_pos,div_le_one,le_div_iff₀,Nat.succ_sub_one]
```

I haven't checked what is going on, but suspect that the `liminf` converges to infinity for some set, but this we get the junk value `0`, which is in turn not larger than 1. Perhaps this can be fixed by talking the limit of the `liminf` in `EReal`?

File: FormalConjectures/ErdosProblems/32.lean [hunk 4]
```diff
@@ -0,0 +1,102 @@
...
+where $\gamma$ is the Euler-Mascheroni constant.
+
+**References**:
+* [Ru98c] Ruzsa, Imre Z., On the additive completion of primes. Acta Arith. (1998), 269-275.
+-/
+@[category research solved, AMS 11]
+theorem erdos_32.variants.ruzsa : ∀ A : Set ℕ,
+    IsAdditiveComplementToPrimes A →
+    Real.exp Real.eulerMascheroniConstant ≤
+      liminf (fun N => ((Finset.Icc 1 N).filter (· ∈ A)).card / Real.log N) atTop := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/32.lean]: same as above: 
```lean
theorem erdos_32.variants.ruzsa : ¬ ∀ A : Set ℕ,
    IsAdditiveComplementToPrimes A →
    Real.exp Real.eulerMascheroniConstant ≤
      liminf (fun N => ((Finset.Icc 1 N).filter (· ∈ A)).card / Real.log N) atTop := by
  push_neg
  delta IsAdditiveComplementToPrimes
  use⊤,Filter.eventually_atTop.2 ⟨2,fun a s=>⟨2,by decide, a-2,trivial,by valid⟩⟩,(Filter.liminf_eq.trans_lt) ?_
  use(Real.sSup_univ.trans_lt (by bound)).trans_eq' ((congr_arg _) ((top_unique fun and x =>(((Real.isLittleO_log_id_atTop.natCast_atTop.const_mul_left and).tendsto_div_nhds_zero.eventually_le_const one_pos).mp) ?_)))
  exact (Filter.eventually_gt_atTop @1).mono fun and x =>(le_div_iff₀ ↑(Real.log_pos ((mod_cast x)))).mpr ∘ ((div_le_one (Nat.cast_pos.mpr ↑x.le)).mp ·|>.trans (by·norm_num [and.succ_sub_one]))
```

File: FormalConjectures/ErdosProblems/32.lean (hunk 3 above)
Comment (rwst) [reply FormalConjectures/ErdosProblems/32.lean]: I removed this because it trivially follows from (a correct) `theorem erdos_32.variants.ruzsa`.

File: FormalConjectures/ErdosProblems/32.lean (hunk 4 above)
Comment (rwst) [reply FormalConjectures/ErdosProblems/32.lean]: Claude: 
Fixed. The formalization now uses EReal (extended reals) for the liminf, which properly handles:                  
  - A = ℕ → liminf = +∞ ≥ e^γ ✓                                                                                     
  - Sparse A → liminf is finite and must be ≥ e^γ

File: FormalConjectures/ErdosProblems/32.lean (hunk 3 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/32.lean]: Perhaps still good to have? Also an presumably easier test statement?

File: FormalConjectures/ErdosProblems/32.lean [hunk 5]
```diff
@@ -50,6 +50,17 @@ theorem erdos_32_log_squared : ∃ A : Set ℕ,
       fun N => (Real.log N) ^ 2 := by
   sorry
 
+/--
+Must every additive complement $A$ to the primes satisfy
+$\liminf_{N \to \infty} \frac{|A \cap \{1, \ldots, N\}|}{\log N} > 1$?
+-/
+@[category test, AMS 11]
+theorem erdos_32.variants.liminf_gt_one : answer(sorry) ↔ ∀ A : Set ℕ,
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/32.lean]: This probably shoudn't be labelled test? 
Also if this is known, it shouldn't contain `answer(sorry)`.

Comment (rwst) [reply FormalConjectures/ErdosProblems/32.lean]: Sorry, I misunderstood your earlier comment.

File: FormalConjectures/ErdosProblems/32.lean [hunk 6]
```diff
@@ -0,0 +1,98 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 32
+
+*Reference:*
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/32.lean]:
```suggestion
*References:*
```

**Comment by rwst** [comment]
-awaiting-author

File: FormalConjectures/ErdosProblems/32.lean [hunk 7]
```diff
@@ -0,0 +1,98 @@
...
+
+namespace Erdos32
+
+open scoped Nat
+open Filter Set Asymptotics
+
+/-- A set $A \subseteq \mathbb{N}$ is an _additive complement to the primes_ if every sufficiently
+large natural number can be written as $p + a$ for some prime $p$ and $a \in A$. -/
+def IsAdditiveComplementToPrimes (A : Set ℕ) : Prop :=
+  ∀ᶠ n in atTop, ∃ p ∈ {p : ℕ | p.Prime}, ∃ a ∈ A, n = p + a
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/32.lean]:
```suggestion
  ∀ᶠ n in atTop, ∃ p, p.Prime ∧ ∃ a ∈ A, n = p + a
```

**Comment by mo271** [comment]
Thanks again!
